US07232819B2
Step 4: Methyl 5-(benzoyloxy)-2-[4-(tert-butoxycarbonyl)-2-methylpiperazin-2-yl]-6-hydroxypyrimidine-4-carboxylate (C-44)
1-benzyl 4-tert-butyl 2-[5-(benzoyloxy)-4-hydroxy-6-(methoxycarbonyl)pyrimidin-2-yl]-2-methylpiperazine-1,4-dicarboxylate (C-43) was dissolved in AcOEt and hydrogenated at 1 atm on 10% (w/w) Pd/C over night. After filtration of the catalyst, solvent was evaporated to give the crude title compound (C-44).

reactant | 1-benzyl 4-tert-butyl 2-[5-(benzoyloxy)-4-hydroxy-6-(methoxycarbonyl)pyrimidin-2-yl]-2-methylpiperazine-1,4-dicarboxylate | C(C1=CC=CC=C1)(=O)OC=1C(=NC(=NC1C(=O)OC)C1(N(CCN(C1)C(=O)OC(C)(C)C)C(=O)OCC1=CC=CC=C1)C)O | C31H34N4O9
solvent | AcOEt | CCOC(=O)C | C4H8O2
solvent | Pd/C | [Pd] | Pd
product | Methyl 5-(benzoyloxy)-2-[4-(tert-butoxycarbonyl)-2-methylpiperazin-2-yl]-6-hydroxypyrimidine-4-carboxylate | C(C1=CC=CC=C1)(=O)OC=1C(=NC(=NC1O)C1(NCCN(C1)C(=O)OC(C)(C)C)C)C(=O)OC | C23H28N4O7
